US06610723B2
3-(4-Chloro-3-trifluoromethyl-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=352.3 (M+H+) was obtained as a beige foam (49% yield) by the reaction of 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine with 2-(4-chloro-3-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2] dioxaborolane.

reactant | 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine | BrC=1C=NC=C(C1)CN1C(=NC=C1)C | C10H10BrN3
reactant | 2-(4-chloro-3-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2] dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C13H15BClF3O2
product | 3-(4-Chloro-3-trifluoromethyl-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1C=NC=C(C1)CN1C(=NC=C1)C)C(F)(F)F | InChI=1S/C17H13ClF3N3.ClH/c1-11-23-4-5-24(11)10-12-6-14(9-22-8-12)13-2-3-16(18)15(7-13)17(19,20)21;/h2-9H,10H2,1H3;1H
